*********************************************************************************
*										*
*	    ,o888888o.    88888888888o.   88888888888888 88888888888888		*
*	   8888     `88.  888888    `88.  888888         888888         	*
*	,888888       `8. 888888     `88  888888         888888         	*
*	8888888           888888     ,88  888888         888888         	*
*	8888888           888888.   ,88'  88888888888888 88888888888888 	*
*	8888888           888888888888'   888888         888888         	*
*	8888888           888888`8b       888888         888888         	*
*	`888888       .8' 888888 `8b.     888888         888888         	*
*	   8888     ,88'  888888   `8b.   888888         888888         	*
*	    `8888888P'    888888     `88. 88888888888888 88888888888888		*
*										*
*********************************************************************************

***********************************************************
****	Cree SiC MOSFET C2M0280120D Spice Library Beta
***********************************************************
****NO Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
***********************************************************

*****************************************
****	C2M0280120D SiC MOSFET Model
*****************************************
.subckt C2M0280120D d g s Tj Tc
.param af1=1
xgmos	d1 g1 s1 Tj Tc gmos params: af=af1

Ls 		s	s1	1f
R_Ls 		s	s1      10
Rg 		g1	g2	{11.4/af1}
Lg 		g	g3	1f
R_Lg		g	g3	10
Ld 		d	d3      1f
R_Ld		d	d3	10  
B1_d		d2	d1      I=(V(d2,d1))/((0.0000073333*((V(Tj))**2)+0.0006547619*(V(Tj))+0.2192857143)+1n)
R1_D		d2	d1	1E12
Vg_s		g3	g2	0
Vd_s		d3	d2	0
GH		0	Tj	value = {abs((V(d,s)*I(Vd_s)))+abs((V(g1,g2)*I(Vg_s)))}
XCGD	d1	g1	cgdmos params: af=af1
CGS	g1	s1	{258p*af1}
CDS	d2	s1	{10.98p*af1}
D1	s1	d2	bodydiode

R0 N1 Tj 28.4m
R1 N2 N1 0.96
R2 N3 N2 97.3m
R3 N4 N3 59m
R4 N5 N4 0.111
R5 N6 N5 0.114
R6 N7 N6 61.3m
R7 N8 N7 74.2m
R8 N9 N8 59.2m
R9 N10 N9 59.1m
R10 N11 N10 67.9m
R11 N12 N11 63.1m
R12 N13 N12 31.9m
R13 Tc N13 8.36m
C0 Tj Tc 0.463m
C1 N1 Tc 1.71m
C2 N2 Tc 0.283m
C3 N3 Tc 1.6m
C4 N4 Tc 3.11m
C5 N5 Tc 2.14m
C6 N6 Tc 5.39m
C7 N7 Tc 10.6m
C8 N8 Tc 21.8m
C9 N9 Tc 36.6m
C10 N10 Tc 52.5m
C11 N11 Tc 74.1m
C12 N12 Tc 0.189
C13 N13 Tc 2.95

.ends C2M0280120D 
*****************************************

.subckt gmos d1 g2 s1 Tj Tc

.param Adj = 0.49

B2_g		NET1	0	V=(-0.0061933136*(V(Tj))+3.5185747167)
R2_g		NET1	0 	1E12
B3_Th		NET2	0	V=((0.0000381939*((V(Tj))**2)-0.0191324239*(V(Tj))+7.7967262057)*Adj)
R3_Th		NET2	0 	1E12
.param p3  = 8.8	
.param p4  = 0.0257												
.param p5  = 2.0	
.param p6  = 2.0	
.param p7  = 0.5	
.param p8  = 0.001	
.param p9  = {2*p3*p4}
.param p10 = {p9*p4}
.param p11 = -10	
.param p12 = 25		 

R100 g1 s1	1e9
E100 g1 s1 	value = {limit(V(g2,s1),p11,p12)}
 
G1 d1 s1 value =	{
+	if(V(d1,s1)<0,
+		-p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0))/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0))/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}
G2 d1 s1 value =	{
+	if(V(d1,s1)<0,
+		p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0)-p6*(v(s1,d1))**p7)/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		-p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0)-p6*(v(d1,s1))**p7)/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}

.ends gmos
****************************************

.model bodydiode d(is=1.1e-4 cjo=236.58p bv=1600 m=0.6 EG=3.26 vj=3.82 n=15 
+	rs=0.089  trs1=-0.0032489007 trs2=0.000013356122 Tnom=25
+	tt=15n ibv=500u Xti=70 level=1)

.subckt cgdmos d2 g
.param k1=119.2p	
.param k2=0.5		
.param ka=18.096	
.param kb=0.2678	
.param kc=7.5277	
G11 g d1 value = 	{
+		af*k1*(
+		(1+(limit(v(d1,g),0,450))*(1+ka*(1+TANH(kb*V(d1,g)-kc))/2))**-k2
+		)*ddt(v(g,d1))
+			}
R_CGD d1 d2 1e-3
C_CGD g d1 {1p*af}
.ends cgdmos
***************************************                                  